US04582821
Z-Phe-Gly-Ser(Bzl)-LeuCH2Cl (0.98 g, 1.44 mmoles) was treated with anhydrous HF by a method substantially similar to that described for preparation of H-Phe-Ser-Ala-LeuCH2Cl.HF in Procedure F, yielding a hydrofluoride salt, H-Phe-Gly-Ser-LeuCH2Cl.HF (0.69 g).

reactant | Z-Phe-Gly-Ser(Bzl)-LeuCH2Cl | 1.44 mmoles, 0.98 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C36H43ClN4O7
reactant | H-Phe-Ser-Ala-LeuCH2Cl | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)CCl | C22H33ClN4O5
product | H-Phe-Gly-Ser-LeuCH2Cl | N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)CCl | C21H31ClN4O5
